US06531491B1
2-Bromonaphthalene (117 mg, 0.564 mmol, 6.0 equiv) was dissolved in THF (0.75 mL) and cooled to −78° C. The mixture was treated with n-BuLi (226 μL, 2.5 M, 6.0 equiv) and was allowed to stir at −78° C. for 30 min. The mixture was then added to freshly dried ZnCl2 solid (139 mg, 0.80 mmol, 8.5 equiv) via cannula and the resulting mix was allowed to warm to 23° C. (during the addition the yellow color disappears). After 30 min at 23° C. the mixture is added to a mixture of 6-(4-benzyloxy-3-methoxy-phenyl)-3-iodo-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole (60 mg, 0.094 mmol, 1 equiv) and Pd(PPh3)4 (6 mg, 0.005 mmol, 0.05 equiv) via cannula. The resulting solution was allowed to stir for 16 h. Saturated sodium bicarbonate was added and the mixture was partitioned between saturated sodium bicarbonate (15 mL) and ethyl acetate (15 mL). The organic material was dried over sodium sulfate, decanted and concentrated. Purification by silica gel chromatography (1:9-2:8 ethyl acetate-hexane) gave 6-(4-benzyloxy-3-methoxy-phenyl)-3-naphthalen-2-yl-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole as a solid (42 mg, 70%): Rf sm 0.4, p 0.4 (ethyl acetate-hexane 3:7); 1H NMR (CDCl3) δ 8.44 (s, 1H), 8.41 (s, 1H), 8.12 (d, 1H, J=8 Hz), 8.05-7.00 (m, 17H), 5.30 (s, 2H), 4.02 (s, 3H), 2.80 (s, 3H), 2.34 (s, 3H).

reactant | 2-Bromonaphthalene | 0.564 mmol, 117 mg, 6.0 equiv | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | n-BuLi | 2.5 M, 226 μL, 6.0 equiv | [Li]CCCC
reactant | 6-(4-benzyloxy-3-methoxy-phenyl)-3-iodo-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole | 0.094 mmol, 60 mg, 1 equiv | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=CC=C2C(=NN(C2=C1)S(=O)(=O)C1=C(C=C(C=C1C)C)C)I)OC | C30H27IN2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 0.75 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 0.80 mmol, 139 mg, 8.5 equiv | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.005 mmol, 6 mg, 0.05 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-benzyloxy-3-methoxy-phenyl)-3-naphthalen-2-yl-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole | 42 mg, 70% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=CC=C2C(=NN(C2=C1)S(=O)(=O)C1=C(C=C(C=C1C)C)C)C1=CC2=CC=CC=C2C=C1)OC | C40H34N2O4S
